US07220773B2
Preparation for (1R)-1-methyl-2-morpholin-4-yl-2-oxoethyl 4-methylbenzenesulfonate
To a suspension of sodium hydride (60% in paraffin liquid) (8.41 g, 210 mmol) in tetrahydrofuran (120 ml was dropped (2R)-1-morpholin-4-yl-1-oxopropane-2-ol (32.1 g) in tetrahydrofuran (150 ml) under stirring, ice cooling and an atmosphere of nitrogen. The mixture was then stirred for 30 minutes at 50° C. After being ice-cooled, thereto was dropped a solution of p-toluenesulfonyl chloride (45.8 g, 234 mmol) in tetrahydrofuran (180 ml), and the mixture was stirred for 4 hours at room temperature. Thereto was added 1N hydrochloric acid and the mixture was extracted with ethyl acetate. The organic layer was washed with water and an aqueous saturated sodium chloride solution and dried over magnesium sulfate. The solvent was removed under reduced pressure to give the oily residue. Thereto was added diethyl ether and the resulting precipitate was taken by filtration, washed with diethyl ether and dried under reduced pressure to give the subject compound as a white solid (36.1 g, 115 mmol, 58%).

reactant | sodium hydride | 210 mmol, 8.41 g | [H-].[Na+]
reactant | (2R)-1-morpholin-4-yl-1-oxopropane-2-ol | 32.1 g | N1(CCOCC1)C([C@@H](C)O)=O | C7H13NO3
reactant | p-toluenesulfonyl chloride | 234 mmol, 45.8 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 180 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | (1R)-1-methyl-2-morpholin-4-yl-2-oxoethyl 4-methylbenzenesulfonate | 115 mmol, 36.1 g, 58% | CC1=CC=C(C=C1)S(=O)(=O)O[C@@H](C(=O)N1CCOCC1)C | C14H19NO5S
